US04324741
To a mixture of 18.6 ml (132 mmols) of trifluoroacetic anhydride and 32 ml of trifluoroacetic acid was added dropwise 1.66 ml of a 30% aqueous hydrogen peroxide solution (H2O2, 16.3 mmols and H2O, 71.7 mmols) in an ice bath. After completion of the addition, the mixture was stirred for 3 hours and 0.90 ml (8.13 mmols) of pentafluoroethyl iodide was added thereto, followed by allowing the mixture to react at 0° to 5° C. for 24 hours. The solvent was then distilled off to obtain 3.3 g (85% yield) of di(trifluoroacetoxy)iodopentafluoroethane as a white fluffy crystals.

reactant | trifluoroacetic anhydride | 132 mmols, 18.6 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic acid | 32 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen peroxide | 16.3 mmols | OO | H2O2
reactant | pentafluoroethyl iodide | 8.13 mmols, 0.90 ml | FC(C(F)(F)F)(F)I | C2F5I
product | di(trifluoroacetoxy)iodopentafluoroethane | 3.3 g, 85% yield | FC(C(=O)OI(C(C(F)(F)F)(F)F)OC(C(F)(F)F)=O)(F)F | C6F11IO4
